US06756382B2
Isoquinoline-3-carboxylic acid (1.05 g, 6.05 mmol) was stirred in 1-methyl-2-pyrrolidinone (50 mL). 1-Hydroxybenzotriazole (885 mg, 6.55 mmol) was added in a single portion. This solution was stirred for 15-20 minutes and then cooled in an ice bath. 1-[3-(Dimethylamino)propyl]-3-ethylcarbodiimide hydrochloride (1.26 g, 6.55 mmol) was added in small portions over a period of 10 minutes. The solution was stirred for 1 hour and then added dropwise to a solution of 1-(3-aminopropyl)-2-butyl-1H-imidazo[4,5-c]quinolin-4-amine (1.50 g, 5.04 mmol) in 1-methyl-2-pyrrolidinone (100 mL). After 3 hours the reaction mixture was poured into distilled water (800 mL). A solid precipitated. This material was stirred for 5 hours, isolated by filtration and then air dried over the weekend. The solid was taken up in chloroform (100 mL) and then purified by column chromatography (silica gel eluting sequentially with chloroform (1 L), 1% methanol in chloroform (1 L) and 5% methanol in chloroform (1 L)). The purified material was slurried with hot acetonitrile, cooled, isolated by filtration and then dried in a vacuum oven to provide 1.72 g of N-[3-(4-amino-2-butyl-1H-imidazo[4,5-c]quinolin-1-yl)propyl]isoquinoline-3-carboxamide as a solid, m.p. 203.8-205.3° C. Analysis: Calculated for C27H28N6O: % C, 71.66; % H, 6.24; % N, 18.57. Found: % C, 71.63; % H, 6.17; % N, 18.57.

reactant | Isoquinoline-3-carboxylic acid | 6.05 mmol, 1.05 g | C1=NC(=CC2=CC=CC=C12)C(=O)O | C10H7NO2
reactant | 1-Hydroxybenzotriazole | 6.55 mmol, 885 mg | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | 1-[3-(Dimethylamino)propyl]-3-ethylcarbodiimide hydrochloride | 6.55 mmol, 1.26 g | Cl.CN(CCCN=C=NCC)C
reactant | 1-(3-aminopropyl)-2-butyl-1H-imidazo[4,5-c]quinolin-4-amine | 5.04 mmol, 1.50 g | NCCCN1C(=NC=2C(=NC=3C=CC=CC3C21)N)CCCC | C17H23N5
solvent | 1-methyl-2-pyrrolidinone | 50 mL | CN1C(CCC1)=O | C5H9NO
solvent | 1-methyl-2-pyrrolidinone | 100 mL | CN1C(CCC1)=O | C5H9NO
product | N-[3-(4-amino-2-butyl-1H-imidazo[4,5-c]quinolin-1-yl)propyl]isoquinoline-3-carboxamide | 1.72 g | NC1=NC=2C=CC=CC2C2=C1N=C(N2CCCNC(=O)C=2N=CC1=CC=CC=C1C2)CCCC | C27H28N6O
